US08895733B2
Intermediate 116: 2-N-(3-Fluorophenyl)-6-[5-(trichloromethyl)-1,2,4-oxadiazol-3-yl]-1,3,5-triazine-2,4-diamine
Trichloroacetic anhydride (2.61 mL, 14.3 mmol) was added to a solution of 4-amino-6-[(3-fluorophenyl)amino]-N-hydroxy-1,3,5-triazine-2-carboximidamide (prepared in an analogous manner to Intermediate 97, 3.13 g, 11.9 mmol) in dioxane (60 mL) containing molecular sieves (3 spoons) at 0 C. The reaction mixture was stirred at room temperature for 3.5 h, at 100 C for 30 min and at 110 C for 30 min. The reaction mixture was concentrated; the resulting residue was dissolved in EtOAc (100 mL) and washed successively with 1M aq. HCl and saturated aq. sodium bicarbonate. The organic phase was concentrated to afford the title compound (4.2 g, 91%) which was used in the subsequent step without further purification.

reactant | Trichloroacetic anhydride | 14.3 mmol, 2.61 mL | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | 4-amino-6-[(3-fluorophenyl)amino]-N-hydroxy-1,3,5-triazine-2-carboximidamide | NC1=NC(=NC(=N1)NC1=CC(=CC=C1)F)C(NO)=N | C10H10FN7O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 2-N-(3-Fluorophenyl)-6-[5-(trichloromethyl)-1,2,4-oxadiazol-3-yl]-1,3,5-triazine-2,4-diamine | 4.2 g, 91% | FC=1C=C(C=CC1)NC1=NC(=NC(=N1)N)C1=NOC(=N1)C(Cl)(Cl)Cl | C12H7Cl3FN7O
